US06884868B1
A mixture of ethyl 4-[4-[4-(3-cyclohexyloxypropyloxy)phenyl]piperazin-1-yl]benzoate (290 mg) in the mixed solvent of tetrahydrofuran (15 ml) and ethanol (3 ml) was treated with 10% sodium hydroxide aqueous solution (0.50 ml), and the mixture was refluxed for 8 hours. After cooling, water was added to the reaction mixture, and the acidity of the mixture was adjusted to pH 1 with 1N-hydrochloric acid. The resulting precipitate was filtered, washed with water and dried under reduced pressure to give 4-[4-[4-(3-cyclohexyloxypropyloxy)phenyl]piperazin-1-yl]benzoic acid dihydrochloride (96 mg) as a pale brown solid.

reactant | ethyl 4-[4-[4-(3-cyclohexyloxypropyloxy)phenyl]piperazin-1-yl]benzoate | 290 mg | C1(CCCCC1)OCCCOC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C28H38N2O4
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.50 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-[4-[4-(3-cyclohexyloxypropyloxy)phenyl]piperazin-1-yl]benzoic acid dihydrochloride | 96 mg | Cl.Cl.C1(CCCCC1)OCCCOC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C26H34N2O4.2ClH/c29-26(30)21-7-9-22(10-8-21)27-15-17-28(18-16-27)23-11-13-25(14-12-23)32-20-4-19-31-24-5-2-1-3-6-24;;/h7-14,24H,1-6,15-20H2,(H,29,30);2*1H
